US09085602B1
3α,7α,12α,24-Tetrahydroxycholane
To a suspension of LiAlH4 (3.85 g, 100 mmol) in dry THF (100 mL) at 0° C. was added dropwise a solution of cholic acid (15.03 g, 35 mmol) in dry THF (200 mL) with vigorous stirring under nitrogen atmosphere. The reaction mixture was then heated to reflux with stirring for overnight. Upon completion, the reaction was carefully quenched with saturated aqueous NH4Cl solution at RT. Then the mixture was acidified with IN HCl to pH 1˜2. The precipitate was collected via filtration and washed with water and acetone to give the product (12.1 g, 88%) as a white solid.

reactant | LiAlH4 | 100 mmol, 3.85 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | cholic acid | 35 mmol, 15.03 g | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C24H40O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3α,7α,12α,24-Tetrahydroxycholane | 12.1 g, 88% | O[C@H]1CC2C[C@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCCO)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)O | C24H42O4
